US05256675
A solution of 5-chloro-2-formylamino-4-(4-pyridylthiomethyl)thiazole (4.9 g) in a mixture of ethanol (25 ml), tetrahydrofuran (20 ml) and concentrated hydrochloric acid (7 ml) was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8 using aqueous sodium bicarbonate under ice-cooling. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-5-chloro-4-(4-pyridylthiomethyl)thiazole (0.26 g, yield: 56.6%). IR (Nujol): 3350, 3250, 1685, 1530 cm-1

reactant | 5-chloro-2-formylamino-4-(4-pyridylthiomethyl)thiazole | 4.9 g | ClC1=C(N=C(S1)NC=O)CSC1=CC=NC=C1 | C10H8ClN3OS2
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 7 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-amino-5-chloro-4-(4-pyridylthiomethyl)thiazole | 0.26 g, yield: 56.6% | NC=1SC(=C(N1)CSC1=CC=NC=C1)Cl | C9H8ClN3S2
